US06066641
e) 6-Amino-1-(3-chlorobenzyl)-5-isobutyrylamino-uracil
4.09 g of 6-amino-1-(3-chlorobenzyl)-5-nitroso-uracil were dissolved in 45 ml of DMF, treated with 2.54 g of sodium carbonate and 0.88 g of neutral Raney-nickel and hydrogenated for 36 hours Isobutyric anhydride (3.6 ml) was added and the mixture shaken for 2 hours at 50° C. The Raney-nickel was filtered off, the filtrate evaporated to dryness, the residue suspended in 100 ml of water and the pH adjusted to 8. The solid was collected, washed and dried to give the crude title compound (4.71 g) as an off-white solid.

reactant | 6-amino-1-(3-chlorobenzyl)-5-nitroso-uracil | 4.09 g | NC1=C(C(NC(N1CC1=CC(=CC=C1)Cl)=O)=O)N=O | C11H9ClN4O3
reactant | sodium carbonate | 2.54 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Isobutyric anhydride | 3.6 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
catalyst | Raney-nickel | 0.88 g | [Ni] | Ni
product | 6-Amino-1-(3-chlorobenzyl)-5-isobutyrylamino-uracil | 4.71 g | NC1=C(C(NC(N1CC1=CC(=CC=C1)Cl)=O)=O)NC(C(C)C)=O | C15H17ClN4O3
